US04564577
1-Naphthol (72.1 g, 500 mmol) and pentadecanoic acid (121.2 g, 500 mmol) were mixed with boron trifluoride etherate (400 ml) and heated on a steam bath for 4 hours. Then 400 ml water was carefully added and heating was continued to remove as much of the ether as possible. The precipitated solid was filtered off, washed well with water and air dried. The crude product was recrystallized from ethanol to give the pentadecanoylnaphthol as light yellow plates. Yield: 110 g (60 percent).

reactant | 1-Naphthol | 500 mmol, 72.1 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | pentadecanoic acid | 500 mmol, 121.2 g | C(CCCCCCCCCCCCCC)(=O)O | C15H30O2
reactant | boron trifluoride etherate | 400 ml | B(F)(F)F.CCOCC
solvent | water | 400 ml | O | H2O
product | pentadecanoylnaphthol | C(CCCCCCCCCCCCCC)(=O)C1=C(C2=CC=CC=C2C=C1)O | C25H36O2
